US20010014691A1
3-Chloro-5-(3-chloropropoxy)pyridine
Under a nitrogen atmosphere, a solution of 5-chloro-3-pyridinol (15.00 g, 115.8 mmol) in N, N-dimethylformamide (DMF) (10 mL) was added drop-wise over 5 min to a cold (0-5° C.), stirring slurry of sodium hydride (3.69 g of an 80% dispersion in mineral oil, 123.0 mmol) in DMF (15 mL). The mixture was allowed to stir and warm to ambient temperature over 1 h. Next, 1-chloro-3-iodopropane (28.4 g, 138.9 mmol) was added drop-wise over 5 min. The resulting dark-brown mixture was stirred at ambient temperature for 4 h. Water (25 mL) was added, followed by saturated NaCl solution (25 mL), and the mixture was extracted with ether (4×50 mL). The combined ether extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 17.22 g (73.0%) of an oil.

reactant | 5-chloro-3-pyridinol | 115.8 mmol, 15.00 g | ClC=1C=C(C=NC1)O | C5H4ClNO
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-3-iodopropane | 138.9 mmol, 28.4 g | ClCCCI | C3H6ClI
reactant | NaCl | 25 mL | [Na+].[Cl-]
solvent | N, N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | DMF | 15 mL | CN(C=O)C | C3H7NO
solvent | Water | 25 mL | O | H2O
product | 3-Chloro-5-(3-chloropropoxy)pyridine | 17.22 g, 73.0% | ClC=1C=NC=C(C1)OCCCCl | C8H9Cl2NO
